US07671043B2
6B: cis-3-({4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzyl}amino)cyclobutanecarboxylic acid hydrochloride
1N NaOH (3.00 g, 3.00 mmol) was added to a solution of ethyl cis-3-({4-[3-(4-isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzyl}amino)cyclobutanecarboxylate (0.260 g, 0.600 mmol) and ethanol (2 mL) and heated to 100° C. in a microwave for 5 minutes. The reaction mixture was adjusted to pH of 7 with 1N HCl causing a white precipitate to form. The reaction mixture was filtered and the solid was slurried in ethyl acetate and treated with 1 N HCl in ether. The slurry was filtered and washed with petroleum ether to give the title compound (0.100 g, 41% yield) as a white solid.

reactant | NaOH | 3.00 mmol, 1N, 3.00 g | [OH-].[Na+]
reactant | ethyl cis-3-({4-[3-(4-isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzyl}amino)cyclobutanecarboxylate | 0.600 mmol, 0.260 g | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(CN[C@H]2C[C@H](C2)C(=O)OCC)C=C1 | C26H31N3O3
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | cis-3-({4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzyl}amino)cyclobutanecarboxylic acid hydrochloride | 0.100 g, 41% yield | Cl.C(C(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(CN[C@H]2C[C@H](C2)C(=O)O)C=C1 | InChI=1S/C24H27N3O3.ClH/c1-15(2)11-16-3-7-18(8-4-16)22-26-23(30-27-22)19-9-5-17(6-10-19)14-25-21-12-20(13-21)24(28)29;/h3-10,15,20-21,25H,11-14H2,1-2H3,(H,28,29);1H/t20-,21+;
